US04140775
In the manner given in Example 1C, 1-phenyl-4-[(4-aminophenyl)methyl]piperazine and 4,7-dichloroquinoline are reacted together at reflux to give 4-[[4-[[4-phenyl-1-piperazinyl]methyl]phenyl]amino]-7-(chloro)quinoline.

reactant | 1-phenyl-4-[(4-aminophenyl)methyl]piperazine | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)N | C17H21N3
reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
product | 4-[[4-[[4-phenyl-1-piperazinyl]methyl]phenyl]amino]-7-(chloro)quinoline | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C26H25ClN4
